US04496551
Preparation of Chloromethyl(1,1-dimethylethoxy)methyl(phenyl)silane
A mixture of 15.4 g (0.075 mol) of chloro(chloromethyl)methyl(phenyl)silane, 14 ml (11.1 g, 0.15 mol) of t-butanol, 11.5 ml (8.3 g, 0.082 g) of triethylamine, and 0.5 g (0.008 mol) of imidazole in 60 ml of dimethylformamide was stirred at 80° for 2 hours. The resulting slurry was cooled, poured into 200 ml of water, and extracted with ether. The ether extracts were washed three times with water, followed by 0.1N aqueous HCl, saturated aqueous NaHCO3, and brine, dried over magnesium sulfate, and evaporated to leave 14.0 g of a pale orange oil. Distillation provided 11.9 g (65%) of the title compound: bp 78°-82° (0.2 mm); nD21 1.5010; ir (neat) 3080, 3060, 2990, 2940, 1600, 1435, 1395, 1370, 1260, 1245, 1195, 1125, 1060, 1030, 815, 790, 740, 725, 705, 650 cm-1 ; nmr (CDCl3): 0.5 (3H, s), 1.3 (9H, s), 2.9 (2H, s) and 7.3-7.8 (5H, m).

reactant | chloro(chloromethyl)methyl(phenyl)silane | 0.075 mol, 15.4 g | Cl[Si](C1=CC=CC=C1)(C)CCl | C8H10Cl2Si
reactant | t-butanol | 0.15 mol, 14 ml, 11.1 g | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 11.5 ml, 8.3 g | C(C)N(CC)CC | C6H15N
reactant | imidazole | 0.008 mol, 0.5 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | Chloromethyl(1,1-dimethylethoxy)methyl(phenyl)silane | 14.0 g | ClC[Si](C1=CC=CC=C1)(C)OC(C)(C)C | C12H19ClOSi
